US07504410B2
19h) Phenylmethyl [3-[[2-[[3-[[(ethylamino)carbonyl]amino]phenyl]amino]-5-(hydroxymethyl)pyrimidin-4-yl]amino]propyl]carbamate
Phenylmethyl[3-[[5-[[[(1,1-dimethylethyl)dimethylsilyl]oxy]methyl]-2-[[3[[(ethylamino)carbonyl]amino]phenyl]amino]pyrimidin-4-yl]amino]propyl]carbamate (145 mg) were stirred in a mixture of ethanol (10 ml) and hydrochloric acid (4 n; 1 ml) for 3 h at room temperature. Then halfconcentrated NaHCO3-solution and ethyl acetate were added.

reactant | Phenylmethyl[3-[[5-[[[(1,1-dimethylethyl)dimethylsilyl]oxy]methyl]-2-[[3[[(ethylamino)carbonyl]amino]phenyl]amino]pyrimidin-4-yl]amino]propyl]carbamate | 145 mg | C1(=CC=CC=C1)COC(NCCCNC1=NC(=NC=C1CO[Si](C)(C)C(C)(C)C)NC1=CC(=CC=C1)NC(=O)NCC)=O | C31H45N7O4Si
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 1 ml | Cl | ClH
product | Phenylmethyl [3-[[2-[[3-[[(ethylamino)carbonyl]amino]phenyl]amino]-5-(hydroxymethyl)pyrimidin-4-yl]amino]propyl]carbamate | C(C)NC(=O)NC=1C=C(C=CC1)NC1=NC=C(C(=N1)NCCCNC(OCC1=CC=CC=C1)=O)CO | C25H31N7O4
